US08541448B2
Intermediate 15.1: 2-((2,4-dichlorobenzyl)(methyl)amino)-1-phenylethanone
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-bromo-1-phenylethanone (1 g, 5.05 mmol, 1.00 equiv) in 1,4-dioxane (20 mL) and (2,4-dichlorophenyl)-N-methylmethanamine (1.1 g, 5.82 mmol, 1.15 equiv). Triethylamine (2 g, 19.80 mmol, 3.92 equiv) was added dropwise with stirring at 20° C. The resulting solution was stirred for 1 h at 20° C. in an oil bath. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:50). This resulted in 1.4 g (90%) of the title compound as a yellow oil.

reactant | 2-bromo-1-phenylethanone | 5.05 mmol, 1 g, 1.00 equiv | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | (2,4-dichlorophenyl)-N-methylmethanamine | 5.82 mmol, 1.1 g, 1.15 equiv | ClC1=C(C=CC(=C1)Cl)CNC | C8H9Cl2N
reactant | Triethylamine | 19.80 mmol, 2 g, 3.92 equiv | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-((2,4-dichlorobenzyl)(methyl)amino)-1-phenylethanone | 1.4 g, 90% | ClC1=C(CN(CC(=O)C2=CC=CC=C2)C)C=CC(=C1)Cl | C16H15Cl2NO
